US06849622B2
Dimethylamine hydrochloride (430 mg) was added to a methylene chloride (10 ml) solution containing 4-(tert-butoxycarbonyl)piperidone (1.0 g), and under ice-cooling, triethylamine (0.84 ml) and triacetoxyborohydride (1.17 g) were further added thereto, and the mixture was stirred at room temperature for 3 hours to undergo reaction, thereby obtaining N-tert-butoxycarbonyl-4-dimethylaminopiperidine. This compound was acid-treated with hydrochloric acid to obtain 4-(dimethylamino)piperidine.dihydrochloride.

reactant | Dimethylamine hydrochloride | 430 mg | Cl.CNC
reactant | 4-(tert-butoxycarbonyl)piperidone | 1.0 g | C(C)(C)(C)OC(=O)C1CC(NCC1)=O | C10H17NO3
reactant | triacetoxyborohydride | 1.17 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O
reactant | N-tert-butoxycarbonyl-4-dimethylaminopiperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)N(C)C | C12H24N2O2
reactant | hydrochloric acid | Cl | ClH
solvent | triethylamine | 0.84 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-(dimethylamino)piperidine.dihydrochloride | Cl.Cl.CN(C1CCNCC1)C | InChI=1S/C7H16N2.2ClH/c1-9(2)7-3-5-8-6-4-7;;/h7-8H,3-6H2,1-2H3;2*1H
